US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 84 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.07 (d, 1H, J=8.4 Hz), 7.81 (s, 1H), 7.66 (t, 1H, J=7.6 Hz), 7.36–7.33 (m, 2H), 7.30–7.27 (m, 2H), 6.90 (d, 1H, J=6.8 Hz), 6.60 (br s, 1H), 3.28 (dd, 2H, J=5.6, 12.0 Hz), 2.95 (d, 2H, J=11.6 Hz), 2.55–2.49 (m, 4H), 2.33 (t, 2H, J=6.4 Hz), 2.00–1.61 (m, 14H), 1.26 (d, 6H, J=6.8 Hz); ESMS m/e: 511.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O | C29H39ClN4O2
